US06884821B1
Using 2-hydroxy-4-(trifluoromethyl)benzaldehyde and propyl iodide, 2-propoxy-4-(trifluoromethyl)benzaldehyde was obtained in the same method as in Production Example 283a).

reactant | 2-hydroxy-4-(trifluoromethyl)benzaldehyde | OC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H5F3O2
reactant | propyl iodide | C(CC)I | C3H7I
product | 2-propoxy-4-(trifluoromethyl)benzaldehyde | C(CC)OC1=C(C=O)C=CC(=C1)C(F)(F)F | C11H11F3O2
